US04205170
An amount of 190 mg of 2-(10,11-dihydro dibenzo[b,f]-oxepin-2-yl)-propionic acid was dissolved in 5 ml of ethanol containing 10% hydrogen chloride and the resulting mixture was stirred at room temperature for 1.5 hours. The solvent was distilled off to obtain the residue, which was extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain pale brown oil, which was chromatographed over silica gel, eluted with benzene, and there was obtained 185 mg of ethyl 2-(10,11-dihydro dibenzo-[b,f]oxepin-2-yl)-propionate as pale yellow oil.

reactant | 2-(10,11-dihydro dibenzo[b,f]-oxepin-2-yl)-propionic acid | 190 mg | C1=C(C=CC=2OC3=C(CCC21)C=CC=C3)C(C(=O)O)C | C17H16O3
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 2-(10,11-dihydro dibenzo-[b,f]oxepin-2-yl)-propionate | 185 mg | C1=C(C=CC=2OC3=C(CCC21)C=CC=C3)C(C(=O)OCC)C | C19H20O3
